US06982335B2
Ethyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylate is refluxed with aqueous sodium hydroxide in methyl tertiary-butyl ether (MTBE) to form 2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylic acid.

reactant | Ethyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylate | C(C)OC(=O)[C@H]1N=C(SC1)C1=C(C=C(C=C1)OC)OC | C14H17NO4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methyl tertiary-butyl ether | C(C)(C)(C)OC | C5H12O
product | 2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylic acid | COC1=C(C=CC(=C1)OC)C=1SC[C@H](N1)C(=O)O | C12H13NO4S
